US04933355
Isobutyl 2-(3-phenylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 1 g of isobutyl 2-aminothiazol-4-ylglyoxylate, 620 mg of phenyl isocyanate and 10 ml of tetrahydrofuran. The resulting product was a pale yellow powder having the following physical properties.

reactant | isobutyl 2-aminothiazol-4-ylglyoxylate | 1 g | NC=1SC=C(N1)C(C(=O)OCC(C)C)=O | C9H12N2O3S
reactant | phenyl isocyanate | 620 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Isobutyl 2-(3-phenylureido)thiazol-4-ylglyoxylate | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC(C)C)=O)=O | C16H17N3O4S
